US06413995B1
A solution of methyl 4-formylhydrocinnamate (2.30 g), malonic acid (2.50 g) and piperidine (0.1 ml) in 12 ml pyridine was stirred at 100° C. for 2 hours, and subsequently at 140° C. for 2 hours. After addition of 100 ml ice-cold water, 210 ml of 0.5 mol/l hydrochloric acid was added dropwise to the reaction mixture to precipitate a solid, which was then filtered, washed with water, and dried by heating under reduced pressure to give 4-[2-(methoxycarbonyl)ethyl]cinnamic acid (2.38 g, 84%) as a colorless solid.

reactant | methyl 4-formylhydrocinnamate | 2.30 g | C(=O)C1=CC=C(CCC(=O)OC)C=C1 | C11H12O3
reactant | malonic acid | 2.50 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 0.5 mol/l, 210 ml | Cl | ClH
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 4-[2-(methoxycarbonyl)ethyl]cinnamic acid | 2.38 g, 84% | COC(=O)CCC1=CC=C(C=CC(=O)O)C=C1 | C13H14O4
